US09399630B2
Methyl 5-aminobenzofuran-2-carboxylate (200 g) and N-benzenesulfonyl-N,N-bis(2-chloroethyl)amine (289 g) were added to tributyl amine (1012 ml) under stirring at 25-30° C. The resulting mixture was heated to 73-77° C., followed by stirring for 43 hours at the same temperature. The reaction mass was cooled to 25-30° C., followed by the addition of methanol (506 ml) and then stirring for 30 minutes at 25-30° C. The resulting mass was filtered, washed with chilled methanol (200 ml) and then dried to produce 220 g of methyl 5-[4-(benzenesulfonyl)-1-piperazinyl]benzofuran-2-carboxylate as a fine powder (Purity by HPLC: 99.5%).

reactant | Methyl 5-aminobenzofuran-2-carboxylate | 200 g | NC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C10H9NO3
reactant | N-benzenesulfonyl-N,N-bis(2-chloroethyl)amine | 289 g | C1(=CC=CC=C1)S(=O)(=O)N(CCCl)CCCl | C10H13Cl2NO2S
reactant | tributyl amine | 1012 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | methanol | 506 ml | CO | CH4O
product | methyl 5-[4-(benzenesulfonyl)-1-piperazinyl]benzofuran-2-carboxylate | 220 g | C1(=CC=CC=C1)S(=O)(=O)N1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C20H20N2O5S
